US07875645B2
2-(2-Chloro-3-trifluoromethyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2-chloro-3-trifluoromethylphenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): white solid; MS (ISP): 262.8 ((M+H)+.).

reactant | (2-chloro-3-trifluoromethylphenyl)-acetonitrile | ClC1=C(C=CC=C1C(F)(F)F)CC#N | C9H5ClF3N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2-Chloro-3-trifluoromethyl-benzyl)-4,5-dihydro-1H-imidazole | ClC1=C(CC=2NCCN2)C=CC=C1C(F)(F)F | C11H10ClF3N2
